US07365095B2
To a solution of {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide (0.14 g, 0.47 mmol) in tetrahydrofuran (7.8 mL) and water (0.8 mL) was added polymer-bound triphenylphosphine (˜3 mmol/g, 0.36 g, 1.08 mmol) and the mixture gently shaken for 3 days. The brown suspension was then filtered through celite, the filter cake washed with diethyl ether (10 mL) and the combined filtrates dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. The crude product was purified by reverse phase HPLC using a solvent gradient of 5 to 95% acetonitrile in water containing 0.1% trifluoroacetic acid. The fractions containing product were concentrated under reduced pressure to remove acetonitrile and the aqueous phase basified by the addition of sodium carbonate and then extracted with ethyl acetate (100 mL). The separated organic phase was dried over magnesium sulfate and concentrated under reduced pressure to afford {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine as a yellow syrup. The product was dissolved in diethyl ether (1 mL) and a solution of hydrogen chloride (1.0 M in diethyl ether, 0.25 mL, 0.25 mmol) was added followed by 2-propanol (2 drops). The resulting white precipitate was filtered and the solid product triturated with diethyl ether (3×3 mL) to afford 36 mg (25%) of {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine hydrochloride as a white solid.

reactant | {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide | 0.47 mmol, 0.14 g | ClC1=C(C=CC=C1)C=1C=CC=C2CC[C@@H](OC12)CN=[N+]=[N-] | C16H14ClN3O
reactant | triphenylphosphine | 1.08 mmol, 0.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 7.8 mL | O1CCCC1 | C4H8O
solvent | water | 0.8 mL | O | H2O
product | {[(2R)-8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine | ClC1=C(C=CC=C1)C=1C=CC=C2CC[C@@H](OC12)CN | C16H16ClNO
